US05166204
1.0 ml of N,N-dimethylethylenediamine was added to 300 mg of N-(4-methylphenyl)-6-methoxy-9-methoxymethyl-1-propylcarbazole-3,4-dicarboximide. The mixture was refluxed for 30 minutes and then concentrated to dryness under reduced pressure. To the residue were added 15 ml of methanol and 1.5 ml of concentrated hydrochloric acid. The mixture was refluxed for 30 minutes. The solvent was removed y distillation under reduced pressure. The residue was mixed with 50 ml of ethyl acetate and 20 ml of an aqueous saturated sodium hydrogencarbonate solution to dissolve the residue. The organic layer was separated, washed with an aqueous saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was recrystallized from n-propanol to obtain 180 mg (yield: 67%) of N-(2-dimethylaminoethyl)-6-methoxy-1-propylcarbazole-3,4-dicarboximide as yellow needles.

reactant | N,N-dimethylethylenediamine | 1.0 ml | CN(CCN)C | C4H12N2
reactant | N-(4-methylphenyl)-6-methoxy-9-methoxymethyl-1-propylcarbazole-3,4-dicarboximide | 300 mg | CC1=CC=C(C=C1)N1C(=O)C=2C=C(C=3N(C4=CC=C(C=C4C3C2C1=O)OC)COC)CCC | C27H26N2O4
product | N-(2-dimethylaminoethyl)-6-methoxy-1-propylcarbazole-3,4-dicarboximide | 180 mg, yield: 67% | CN(CCN1C(=O)C=2C=C(C=3NC4=CC=C(C=C4C3C2C1=O)OC)CCC)C | C22H25N3O3
